US05348958
476 mg of 6-(1-isoquinolyloxy)-4-methoxymethyl-9-tosyl-β-carboline-3-carboxylic acid isopropyl ester is mixed in 10 ml of tetrahydrofuran under argon at -60° C. with 0.79 ml of a 0.9 m solution of phenyllithium in benzene. After 1 hour at -60° C., it is stirred for 16 hours at room temperature. The batch is acidified with glacial acetic acid and concentrated by evaporation. The residue is dispersed in ethyl acetate/water and the organic phase is washed, dried, filtered and concentrated by evaporation in succession with respectively saturated sodium bicarbonate and common salt solution. The residue is chromatographed on silica gel with methylene chloride: ethanol=10:1. The corresponding fractions are combined, concentrated by evaporation and recrystallized. 30 mg of 6-(1-isoquinolyloxy)-4-methoxymethyl-3-benzoyl-β-carboline of melting point 159°-160° C. (ethyl acetate/hexane) is obtained.

reactant | 6-(1-isoquinolyloxy)-4-methoxymethyl-9-tosyl-β-carboline-3-carboxylic acid isopropyl ester | 476 mg | C(C)(C)OC(=O)C=1N=CC=2N(C3=CC=C(C=C3C2C1COC)OC1=NC=CC2=CC=CC=C12)S(=O)(=O)C1=CC=C(C)C=C1 | C33H29N3O6S
reactant | phenyllithium | C1(=CC=CC=C1)[Li]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 6-(1-isoquinolyloxy)-4-methoxymethyl-3-benzoyl-β-carboline | 30 mg | C1(=NC=CC2=CC=CC=C12)OC=1C=C2C=3C(=C(N=CC3NC2=CC1)C(C1=CC=CC=C1)=O)COC | C29H21N3O3
